US06288120B1
A solution of lithium aluminum hydride (30 mL, 1M in THF, 30 mmol) was added dropwise to a solution of 4-isobutylbenzoic acid (5.34 g, 30 mmol) in THF (50 mL) at 0° C. The ice bath was removed and the reaction was stirred at room temperature for 1 h. The reaction was carefully poured onto a mixture of ice and aqueous HCl (10 mL, 6N). The product was extracted into EtOAc and the organic solution was dried (MgSO4), filtered, and concentrated to obtain (4-isobutyl-phenyl)-methanol which was used in the next step without further purification. 1H NMR (400 MHz, CDCl3) δ 7.26 (d, 2H), 7.13 (d, 2H), 4.65 (s, 2H), 2.46 (d, 2H), 1.85 (m, 1H), 0.89 (d, 6H).

reactant | lithium aluminum hydride | 30 mmol, 1M, 30 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 4-isobutylbenzoic acid | 30 mmol, 5.34 g | C(C(C)C)C1=CC=C(C(=O)O)C=C1 | C11H14O2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | (4-isobutyl-phenyl)-methanol | C(C(C)C)C1=CC=C(C=C1)CO | C11H16O
